*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-2N6
* Inductance = 2.598nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-2N6_freq port1 port2 PARAMS: Cpar=0.108pF Ind=2.598nH
X1 port1 port2 Model2A PARAMS:
+ R1=5
+ R2=0.015
+ C= {Cpar}
+ K1=0.0000057
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4332.25059
.ends 0805HP-2N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-6N2
* Inductance = 6.193nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-6N2_freq port1 port2 PARAMS: Cpar=0.079pF Ind=6.193nH
X1 port1 port2 Model2A PARAMS:
+ R1=5
+ R2=0.027
+ C= {Cpar}
+ K1=0.0000107
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13271.8861
.ends 0805HP-6N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-6N8
* Inductance = 6.788nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-6N8_freq port1 port2 PARAMS: Cpar=0.104pF Ind=6.788nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.066
+ C= {Cpar}
+ K1=0.0000123
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5964.26137
.ends 0805HP-6N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-11N
* Inductance = 10.97nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-11N_freq port1 port2 PARAMS: Cpar=0.1025pF Ind=10.97nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.039
+ C= {Cpar}
+ K1=0.0000146
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9728.95129
.ends 0805HP-11N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-12N
* Inductance = 11.96nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-12N_freq port1 port2 PARAMS: Cpar=0.1085pF Ind=11.96nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.039
+ C= {Cpar}
+ K1=0.0000164
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5236.18591
.ends 0805HP-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-13N
* Inductance = 12.95nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-13N_freq port1 port2 PARAMS: Cpar=0.117pF Ind=12.95nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.039
+ C= {Cpar}
+ K1=0.0000178
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5245.72031
.ends 0805HP-13N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-18N
* Inductance = 17.92nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-18N_freq port1 port2 PARAMS: Cpar=0.105pF Ind=17.92nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.05
+ C= {Cpar}
+ K1=0.0000235
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7975.77099
.ends 0805HP-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-33N
* Inductance = 32.65nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-33N_freq port1 port2 PARAMS: Cpar=0.13pF Ind=32.65nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.087
+ C= {Cpar}
+ K1=0.0000418
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24954.1943
.ends 0805HP-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-47N
* Inductance = 46.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-47N_freq port1 port2 PARAMS: Cpar=0.1155pF Ind=46.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=3.2
+ R2=0.093
+ C= {Cpar}
+ K1=0.0000544
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=70367.6848
.ends 0805HP-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-56N
* Inductance = 55.32nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-56N_freq port1 port2 PARAMS: Cpar=0.14pF Ind=55.32nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.122
+ C= {Cpar}
+ K1=0.0000648
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=36741.4315
.ends 0805HP-56N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-82N
* Inductance = 81.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-82N_freq port1 port2 PARAMS: Cpar=0.135pF Ind=81.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=9.1
+ R2=0.168
+ C= {Cpar}
+ K1=0.0000864
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=48243.5805
.ends 0805HP-82N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-101
* Inductance = 98.85nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-101_freq port1 port2 PARAMS: Cpar=0.131pF Ind=98.85nH
X1 port1 port2 Model2A PARAMS:
+ R1=7.4
+ R2=0.22
+ C= {Cpar}
+ K1=0.0001064
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=66315.8736
.ends 0805HP-101_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-121
* Inductance = 118.3nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-121_freq port1 port2 PARAMS: Cpar=0.135pF Ind=118.3nH
X1 port1 port2 Model2A PARAMS:
+ R1=4.12
+ R2=0.293
+ C= {Cpar}
+ K1=0.0001224
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=103537.992
.ends 0805HP-121_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-151
* Inductance = 148.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-151_freq port1 port2 PARAMS: Cpar=0.135pF Ind=148.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.288
+ C= {Cpar}
+ K1=0.0001554
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=72483.4551
.ends 0805HP-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-181
* Inductance = 178.3nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-181_freq port1 port2 PARAMS: Cpar=0.135pF Ind=178.3nH
X1 port1 port2 Model2A PARAMS:
+ R1=9.1
+ R2=0.374
+ C= {Cpar}
+ K1=0.0001914
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=86722.3725
.ends 0805HP-181_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-221
* Inductance = 217.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-221_freq port1 port2 PARAMS: Cpar=0.1345pF Ind=217.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=12.8
+ R2=0.426
+ C= {Cpar}
+ K1=0.0002374
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=80692.2753
.ends 0805HP-221_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-271
* Inductance = 266.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-271_freq port1 port2 PARAMS: Cpar=0.138pF Ind=266.1nH
X1 port1 port2 Model2A PARAMS:
+ R1=15
+ R2=0.754
+ C= {Cpar}
+ K1=0.0001454
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=100488.164
.ends 0805HP-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-331
* Inductance = 324.4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-331_freq port1 port2 PARAMS: Cpar=0.1315pF Ind=324.4nH
X1 port1 port2 Model2A PARAMS:
+ R1=16.6
+ R2=1.004
+ C= {Cpar}
+ K1=0.0002734
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=101991.438
.ends 0805HP-331_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-391
* Inductance = 382.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-391_freq port1 port2 PARAMS: Cpar=0.135pF Ind=382.1nH
X1 port1 port2 Model2A PARAMS:
+ R1=9.8
+ R2=1.11
+ C= {Cpar}
+ K1=0.0003374
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=151107.45
.ends 0805HP-391_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-471
* Inductance = 467.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-471_freq port1 port2 PARAMS: Cpar=0.131pF Ind=467.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=14.6
+ R2=1.559
+ C= {Cpar}
+ K1=0.0003874
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=146016.812
.ends 0805HP-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-561
* Inductance = 558.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-561_freq port1 port2 PARAMS: Cpar=0.15pF Ind=558.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=26
+ R2=2.067
+ C= {Cpar}
+ K1=0.0005374
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=96524.0771
.ends 0805HP-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-681
* Inductance = 678.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-681_freq port1 port2 PARAMS: Cpar=0.13pF Ind=678.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=17.6
+ R2=2.355
+ C= {Cpar}
+ K1=0.0006654
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=158152.328
.ends 0805HP-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0805HP-821
* Inductance = 817.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0805HP-821_freq port1 port2 PARAMS: Cpar=0.13pF Ind=817.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=28.8
+ R2=3.945
+ C= {Cpar}
+ K1=0.0006114
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=148706.055
.ends 0805HP-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
